US03992544
1-Benzyl-3-methyl-5-phenacyl-4-piperidone
To a stirred, cooled solution of 1-benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinopyridine (14 g) in dry benzene (50 ml) was added dropwise, in an atmosphere of nitrogen, a solution of phenacyl bromide (10 g) in dry benzene (50 ml). The resulting solution was stirred at room temperature, under nitrogen for 40 hours. Water (100 ml) was added and stirring continued for 1 hour. The organic layer was collected, dried over magnesium sulphate and evaporated to give 17.3 g of the crude product as a red oil.

reactant | 1-benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinopyridine | 14 g | C(C1=CC=CC=C1)N1CC(C(=CC1)N1CCCC1)C | C17H24N2
reactant | phenacyl bromide | 10 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | Water | 100 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Benzyl-3-methyl-5-phenacyl-4-piperidone | 17.3 g | C(C1=CC=CC=C1)N1CC(C(C(C1)CC(=O)C1=CC=CC=C1)=O)C | C21H23NO2
